US06716851B2
4-(5-Fluoro-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 5-fluoro-2-methylaniline (36 mg, 0.290 mmol) similar to Example 58 and isolated as a tan solid (4 mg, 6%). 1H NMR (CDCl3): 9.71 (dd, J=0.80, 2.3 Hz, 1H), 8.74-8.71 (m, 1H), 8.68 (dd, J=1.7, 5.0 Hz, 1H), 7.72 (s, 1H), 7.44-7.39 (m, 1H), 7.33-7.28 (m, 2H), 7.02-6.95 (m, 1H), 6.67 (s, 1H), 2.29 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 5-fluoro-2-methylaniline | 0.290 mmol, 36 mg | FC=1C=CC(=C(N)C1)C | C7H8FN
product | 4-(5-Fluoro-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | FC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C1)C | C17H12F4N4
